US07196111B2
To a solution of 18 mg (0.042 mmol) of 6-(4-benzyloxy-phenyl)-7-cyclohexyl-3-nitro-pyrazolo[1,5-a]pyrimidine in 3 mL of ethyl acetate (EtOAc) was added 40 mg (0.21 mmol) of tin (II) chloride (SnCl2) and the resulting mixture was stirred at 80° C. under argon for 8 h when analysis by TLC indicated only 75% conversion of starting material to product. Therefore, 40 mg (0.21 mmol) of tin (II) chloride (SnCl2) was added, the reaction mixture was heated at 80° C. for 8 h when analysis by TLC indicated complete conversion of starting material to product. The mixture was diluted with ethyl acetate, washed with saturated sodium bicarbonate solution, water, brine, dried over sodium sulfate and evaporated to give (after lyophilization) 6 mg (36% yield) of 6-(4-benzyloxy-phenyl)-7-cyclohexyl-pyrazolo[1,5-a]pyrimidin-3-ylamine as a yellow solid as indicated by 1H NMR; LC-MS—calcd for C25H26N4O [M++H]+: 399.21, found: 399.2.

reactant | 6-(4-benzyloxy-phenyl)-7-cyclohexyl-3-nitro-pyrazolo[1,5-a]pyrimidine | 0.042 mmol, 18 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=NC=2N(C1C1CCCCC1)N=CC2[N+](=O)[O-] | C25H24N4O3
reactant | tin (II) chloride | 0.21 mmol, 40 mg | [Sn](Cl)Cl
reactant | tin (II) chloride | 0.21 mmol, 40 mg | [Sn](Cl)Cl
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 6-(4-benzyloxy-phenyl)-7-cyclohexyl-pyrazolo[1,5-a]pyrimidin-3-ylamine | 6 mg, 36% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1C=NC=2N(C1C1CCCCC1)N=CC2N | C25H26N4O
